US04267176
A solution of 7-[2-ethoxyimino-2-(4-formamidopyrimidin-2-yl)acetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (3.97 g) and concentrated hydrochloric acid (0.73 ml) in methenol (80 ml) was stirred for 1.5 hours at ambient temperature. The solvent was evaporated to dryness and the residue was dissolved in water (100 ml). The aqueous solution was washed with ethyl acetate and adjusted to pH 3 with an aqueous solution of sodium bicarbonate and then subjected to column chromatography over nonionic adsorption resin, "Diaion HP 20". The column was washed with water and eluted with 50% aqueous methanol. The eluent containing a desired compound was evaporated to remove the methanol and then lyophilized to give 7-[2-(4-aminopyrimidin-2-yl)-2-ethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (1.75 g), mp 155°-160° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(4-formamidopyrimidin-2-yl)acetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 3.97 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C1=NC=CC(=N1)NC=O | C19H18N8O6S3
reactant | hydrochloric acid | 0.73 ml | Cl | ClH
product | 7-[2-(4-aminopyrimidin-2-yl)-2-ethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.75 g | NC1=NC(=NC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC | C18H18N8O5S3
